US08193228B2
2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine
Hydrogen chloride (4 M in dioxane) (2.6 mL, 10.5 mmol) was added to a solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine (1.3 g, 2.1 mmol) in methanol (20 mL). After stirring at 60° C. for 1 h, volatiles were removed. The residue was partitioned between 1 N hydrochloric acid and hexane/diethyl:ether (3:1). The aqueous phase was washed with hexane/diethyl ether (3:1), basified with saturated aqueous sodium carbonate and extracted with ethyl acetate. Combined extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. Purification by HPLC (Gilson; Chiralcel AD column; 50% isopropanol/heptane) afforded the pure enantiomers. (M+H) found 381.

reactant | Hydrogen chloride | 10.5 mmol, 4 M, 2.6 mL | Cl | ClH
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine | 2.1 mmol, 1.3 g | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(NC)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C42H43FN4
solvent | methanol | 20 mL | CO | CH4O
product | 2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine | CC(CC=1N=C(NC1)CC(NC)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C23H29FN4
